US07192968B2
(±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopropanediamine hydrochloride
1-Hydroxybenzotriazole monohydrate (71 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (100 mg) were added to a solution with (±)-cis-N-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclopropanediamine (108 mg) and lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate (124 mg) dissolved in N,N-dimethylformamide (3 ml) at room temperature, and the mixture was stirred for 8 days. After concentrating the reaction mixture under reduced pressure using a vacuum pump, water (50 ml) and a saturated aqueous solution (50 ml) of sodium hydrogencarbonate were added to the residue to conduct extraction with dichloromethane. The resultant organic layers were collected and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure, and the residue was purified by preparative thin-layer chromatography on silica gel (dichloromethane:methanol=10:1). After 1N hydrochloric acid, dichloromethane and methanol were added to the thus-obtained amorphous substance, the mixture was concentrated to obtain the title compound (72 mg) as a colorless solid.

reactant | 1-Hydroxybenzotriazole monohydrate | 71 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 100 mg | Cl.CN(CCCN=C=NCC)C
reactant | (±)-cis-N-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclopropanediamine | 108 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](C1)N | C12H12ClN3O
reactant | lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | 124 mg | CN1CC2=C(CC1)N=C(S2)C(=O)[O-].[Li+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopropanediamine hydrochloride | 72 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](C1)NC(=O)C=1SC=2CN(CCC2N1)C | InChI=1S/C20H20ClN5O2S.ClH/c1-26-5-4-13-17(9-26)29-20(25-13)19(28)24-15-8-14(15)23-18(27)16-7-10-6-11(21)2-3-12(10)22-16;/h2-3,6-7,14-15,22H,4-5,8-9H2,1H3,(H,23,27)(H,24,28);1H/t14-,15+;/m1./s1
